Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever, cough, abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o male with no significant past medical 
history who presents with fevers and right abdominal pain x2 
weeks.

He reports that two weeks ago, he developed three sets of 
symptoms:
1) non-productive cough, chest pain (central to right-sided), 
fevers, and 
2) abdominal pain (persistent, right-sided, worse with meals), 
constipation (one BM in last 5 days that was watery/soft), 
nausea, NBNB vomiting two days ago, and poor PO intake, and 
3) dysuria, flank tenderness, and hematuria (bright blood)

His symptoms have all been worsening. He traveled to ___ four 
weeks ago with friends but reports being very cautious with 
food/water. He is sexually active but was recently test for STDs 
which was negative. 

He has a history of DVT with a chronic partially occluded vein. 
Diagnosed with protein C deficiency, which his family also has. 
 
In the ED, initial vital signs were: T 102.8, HR 118, BP 125/83, 
O2 97% RA  
- Exam notable for: bilateral CVA tenderness, TTP of RUQ and RLQ
- Labs were notable for: WBC 8.5 (90% neutrophils), Cr 0.9, LFTs 
wnl, Trop negative, Lactate 1.9, INR 1.4, hapto 260, UA with 8 
RBC but <1 WBC and negative for bacteria. Flu negative. Blood 
and urine cx pending
- Studies performed include: CTU did not demonstrate stones or 
appendicitis, but did demonstrate bilateral lower lobe 
consolidations consistent with pneumonia vs sequela of 
aspiration. CXR demonstrated LLL pneumonia. LENIs demonstrated 
no filling defect but thickening of the vessel wall in the mid 
and distal left femoral vein 
- Patient was given: Ceftriaxone, Azithromycin, Tylenol, and NS
- Vitals on transfer: T 97.7, HR 62, BP 102/53, RR 20, O2 100% 
RA 

Upon arrival to the floor, the patient was alert and oriented. 
His biggest concern was his constipation and right-sided 
abdominal pain. He did not feel comfortable eating.  
 

REVIEW OF SYSTEMS:  
(+) per HPI  
(-) 10 pt ROS otherwise

 
Past Medical History:
Protein C deficiency
 
Social History:
___
Family History:
Mother and sister with protein C deficiency
Family members with diabetes, hypertension. 
Paternal grandfather with stomach cancer.
 
Physical Exam:
Admission physical exam:
VS: 98.0, 90s/50s, 68, 18, 100% RA 
GENERAL: AOx3, appears comfortable, lying in bed
HEENT: PERRL, dry mucous membranes
NECK: Normal ROM, neck supple  
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops
LUNGS: Quiet breath sounds, no wheezes, no crackles 
BACK: No CVA tenderness  
ABDOMEN: Significant tenderness to palpation in right abdomen 
(RLQ > RUQ)  
EXTREMITIES: Trace left ___ ankle edema, otherwise no edema 
SKIN: No evidence of ulcers or facial rashes
NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal 
sensation. No ataxia, dysmetria, disdiadochokinesia. Gait is 
normal.

Discharge physical exam:
VS: Tmax 98.9 BP 90-110/50-60s HR 70-80s RR 18 ___ on RA
GENERAL: AOx3, appears comfortable, lying in bed
HEENT: PERRL, dry mucous membranes
NECK: Normal ROM
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops
LUNGS: Quiet breath sounds, no wheezes, no crackles 
ABDOMEN: Significant tenderness to palpation in right abdomen 
(RLQ > RUQ)  
EXTREMITIES: Trace left ___ ankle edema, otherwise no edema 
NEUROLOGIC: CN2-12 grossly intact. 
 
Pertinent Results:
Admission labs:
___ 05:26AM BLOOD WBC-8.5 RBC-4.63 Hgb-13.7 Hct-40.7 MCV-88 
MCH-29.6 MCHC-33.7 RDW-12.0 RDWSD-38.7 Plt ___
___ 05:26AM BLOOD Neuts-90* Bands-0 Lymphs-5* Monos-4* 
Eos-1 Baso-0 ___ Myelos-0 AbsNeut-7.65* 
AbsLymp-0.43* AbsMono-0.34 AbsEos-0.09 AbsBaso-0.00*
___ 05:26AM BLOOD Glucose-103* UreaN-15 Creat-0.9 Na-134 
K-3.6 Cl-97 HCO3-21* AnGap-20
___ 05:26AM BLOOD ALT-12 AST-19 LD(LDH)-196 CK(CPK)-110 
AlkPhos-76 TotBili-0.5
___ 05:26AM BLOOD Albumin-4.1 Calcium-8.9 Phos-1.8* Mg-1.9

Discharge labs:
___ 06:15AM BLOOD WBC-8.2 RBC-4.49* Hgb-13.3* Hct-40.9 
MCV-91 MCH-29.6 MCHC-32.5 RDW-12.1 RDWSD-40.4 Plt ___
___ 06:15AM BLOOD ___ PTT-31.7 ___
___ 06:15AM BLOOD Glucose-87 UreaN-5* Creat-0.8 Na-138 
K-4.4 Cl-100 HCO3-26 AnGap-16
___ 06:15AM BLOOD Calcium-8.8 Phos-3.4 Mg-2.2

Imaging:
CTU ___:
1. No acute intra-abdominal abnormality.  Specifically, no stone 
or evidence of acutely appendicitis. 
2. Bilateral lower lobe consolidations, consistent with 
pneumonia and/or sequela of aspiration. 

CXR ___:
Left lower lobe pneumonia.

LENIs ___:
Thickening of the vessel wall in the mid and distal left femoral 
vein may be related to prior extensive DVT.  With compression, 
isoechoic soft tissue persists.  It is unclear if this reflects 
noncompressibility secondary to nonocclusive DVT versus opposed 
but thickened vein walls.  No filling defect on color Doppler 
images is visualized. 

 
Brief Hospital Course:
___ w/h/o provoked DVT ___ and protein C deficiency (on
aspirin and adderal, was treated with Rivaroxaban for ___ year) 
who
presented with intermittent fever, chest pain cough, abdominal
pain, constipation, N/V s/p travel to ___ 4 weeks prior. Also
noted small amount of urethral bleeding on the day of
presentation. Febrile to 102.8 in ED with bilateral CVA 
tenderness, TTP RLQ
and RUQ, negative FLU, neutrophilia 90% WBC 8.5 and
thrombocytopenia to 104. INR 1.4. Hemolysis and DIC labs
negative. Flu and Malaria negative. CT abdomen showed bil LL
consolidations, CXR LLL pneumonia, negative ___. Started on
Ceftriaxone, Azithromycin, Tylenol, and NS and admitted to
medicine. 

# Febrile illness with suspected Left lower lobe pneumonia: Mr. 
___ presented with fevers, chest pain, cough (nonproductive), 
and imaging findings concerning for LLL pneumonia. Received IVF 
in the ED.  Atypical pneumonias was considered given the 
prominent GI symptoms on presentaton. He was started on 
ceftriaxone/azithromycin (___-) for CAP and was discharged on 
amoxicillin/azithromycin for ___bdominal pain and constipation: Presented with 2 weeks of 
persistent R sided abdominal pain, along with constipation, 
nausea, worsening pain with food, and vomiting. Labs, including 
LFTs, were unremarkable and there was no leukocytosis. CT scan 
(non-contrast) did not demonstrate appendicitis or 
nephrolithiasis, and UA was negative. Further, CT did not 
demonstrate a severe stool burden or obstruction. Also no signs 
of cholecystitis, infarcts, or colitis. No melena, hematochezia, 
or hematemesis, and hemoglobin stable. Abdominal pain and 
constipation improved with laxatives. Given the association of 
febrile illness with constipation in the setting of recent 
travel to endemic area the possibility of typhoid fever was 
considered and antibiotic regimen was designed to cover for both 
typhoid and community acquired pneumonia. Blood cultures 
finalized as negative. Discharged on amoxicillin/azithromycin 
for 10 day course. 

# Thrombocytopenia with elevated INR: Thrombocytopenia to nadir 
of 103 on presentation with INR 1.4.  Blood smear showed bands, 
but no schistocytes, fibrinogen > 500. ___ be reactive in 
setting of infection. Discharge INR 1.4, platelets 177.

# ADD: Held his home Adderall while he was inpatient. 

# Protein C deficiency:
# Hx of DVT: LENIs demonstrated nonocclusive DVT vs. thickened 
vein walls in left femoral vein which were thought to be 
residual from previous non occlusive DVT. DVT ppx with SQH and 
ambulation was employed.  Aspirin 81 mg daily was continued. 

# HIV screening with ___ Generation Hiv Ag/Ab Combo Assay: 
negative during this admission. 

Transitional issues
===================
[] New medications 
- Azithromycin 250 mg PO twice a day x7d (last ___
- Amoxicillin 1000mg PO twice a day x7d (last day ___
[] Patient to contact (___) to set up a follow up 
appointment. 
[] Patient provided with prescription (CBC, INR) for labs to be 
drawn the day before the appointment.
[] Please obtain repeat CXR 6 weeks following d/c to ensure 
resolution of pneumonia

# Emergency Contact/HCP: Mother (___) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Amphetamine-Dextroamphetamine XR 10 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin 1000 mg PO Q12H 
RX *amoxicillin 500 mg 2 capsule(s) by mouth Twice a day Disp 
#*12 Capsule Refills:*0 
2.  Azithromycin 500 mg PO Q24H 
RX *azithromycin 500 mg 1 tablet(s) by mouth Daily Disp #*3 
Tablet Refills:*0 
3.  Amphetamine-Dextroamphetamine XR 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.Outpatient Lab Work
CBC, ___, PTT, INR

Name: ___ 
Location: ___ 
Address: ___ 
Phone: ___ 
Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left lower lobe pneumonia
Abdominal pain with nausea and vomiting
Protein C deficiency
Attention deficit disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for fever, cough, and abdominal pain. A chest 
x-ray showed evidence of pneumonia so you were started on 
antibiotics. A CT scan of your abdomen did not show evidence of 
an infection. Your condition improved, and you were discharged 
on antibiotics. We are still unsure if this was caused wholly by 
pneumonia or an infection like typhoid, but the antibiotics 
should cover for both.

By time of discharge, blood pressure ranged from 
___, heart rate 70-80s. Discharge platelets 177, INR 
1.4.

Please contact your primary care doctor (___) to set up 
a follow up appointment. Have labs drawn the day before the 
appointment.

It was a pleasure to take care of you. We wish you all the best.

Sincerely,
Your ___ team 
 
Followup Instructions:
___